US07053070B2
4-(4-Nitrophenyl)-piperazine-1-carboxylic acid tert-butyl ester
A suspension of 7.5 g (36 mmol) of 1-(4-nitrophenyl)-piperazine and 6.94 mL (40 mmol) of ethyl-diisopropyl-amine in 75 mL of dichloromethane is treated with 8.69 g (40 mmol) of di-tert-butyl dicarbonate and stirred at room temperature overnight. The resulting solution is washed with saturated aqueous sodium bicarbonate, then with water, dried (magnesium sulfate), and concentrated. The resulting material is purified by flash chromatography eluting with a gradient of 10% to 30% ethyl acetate/hexane during 10 minutes to give 8.62 g (77.5%) of the product, mp 136-140° C.

reactant | 1-(4-nitrophenyl)-piperazine | 36 mmol, 7.5 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | ethyl-diisopropyl-amine | 40 mmol, 6.94 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 40 mmol, 8.69 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 4-(4-Nitrophenyl)-piperazine-1-carboxylic acid tert-butyl ester | 8.62 g, 77.5% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H21N3O4
